US03940444
To a mixture of 1.9 g. of mercuric acetate, 6 ml. of water and 20 ml. of tetrahydrofuran is added 1.49 g. of 5,9,13-trimethyltetradeca-4,6,12-trien-3-one slowly. After addition is complete, the reaction mixture is stirred for about 20 minutes. The mixture is cooled to about 0° and 6 ml. of aqueous sodium hydroxide (3 molar) is added followed by 0.49 g. of sodium borohydride in aqueous sodium hydroxide (about 3 molar). The mixture is stirred for about 30 minutes. The mixture is then decanted, concentrated, diluted with water and then extracted with ether. The ethereal extract is washed with water, dried over magnesium sulfate and the product chromatographed on silica to yield 13-hydroxy-5,9,13-trimethyltetradeca-4,6-dien-3-one.

reactant | water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 5,9,13-trimethyltetradeca-4,6,12-trien-3-one | CC(=CC(CC)=O)C=CCC(CCC=C(C)C)C | C17H28O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | sodium hydroxide | about 3 molar | [OH-].[Na+]
solvent | sodium hydroxide | 3 molar | [OH-].[Na+]
product | 13-hydroxy-5,9,13-trimethyltetradeca-4,6-dien-3-one | OC(CCCC(CC=CC(=CC(CC)=O)C)C)(C)C | C17H30O2
